US08283353B2
4′-({5-oxo-7-propyl-4-[trans-4-(3,3,3-trifluoro-2-hydroxypropoxy)cyclohexyl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
4′-({5-Oxo-4-[trans-4-(2-oxoethoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.31 g) and trimethyl(trifluoromethyl)silane (0.12 g) were dissolved in tetrahydrofuran (5 mL), tetrabutylammonium fluoride (0.74 mL, 1.0 M tetrahydrofuran solution) was added dropwise, and the mixture was stirred at room temperature for 16 hr. 1 M Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.054 g, 15%).

reactant | 4′-({5-Oxo-4-[trans-4-(2-oxoethoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.31 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC=O | C30H31N5O3
reactant | trimethyl(trifluoromethyl)silane | 0.12 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 1.0 M, 0.74 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4′-({5-oxo-7-propyl-4-[trans-4-(3,3,3-trifluoro-2-hydroxypropoxy)cyclohexyl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.054 g, 15% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(C(F)(F)F)O | C31H32F3N5O3
